US05278326
Preparation of N-octyl-β-oxo-9-anthracenepropanamide
The title compound, mp 70°-72° C., was prepared from 9-acetylanthracene (5.0 g, 0.022 mol), octyl isocyanate (3.52 g, 0.022 mol), and lithium diisopropylamide (0.032 mol) using the procedure described in Example 1. Purification by flash chromatography (silica gel, 5% EtOAc/hexane) yielded 3.84 g (0.010 mol, 45.2%) of the desired product.

reactant | 9-acetylanthracene | 0.022 mol, 5.0 g | C(C)(=O)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C16H12O
reactant | octyl isocyanate | 0.022 mol, 3.52 g | C(CCCCCCC)N=C=O | C9H17NO
reactant | lithium diisopropylamide | 0.032 mol | C(C)(C)[N-]C(C)C.[Li+]
product | N-octyl-β-oxo-9-anthracenepropanamide | C(CCCCCCC)NC(CC(C=1C2=CC=CC=C2C=C2C=CC=CC12)=O)=O | C25H29NO2
